US05559111
c) 5(S)-tert-butoxycarbonylamino-4(S)-tert-butyldimethylsilyloxy-7(S)-isopropyl-2(R)-methyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid
4.45 g of 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-7(S)-isopropyl-2(R)-methyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid (crude) are stirred in 45 ml of dimethylformamide with 2.36 g of tert-butyldimethylsilyl chloride and 2.03 g of imidazole for 6 days at room temperature. The mixture is concentrated by evaporation and the residue is partitioned between 10% citric acid solution and ethyl acetate. The organic phase is concentrated and stirred in 20 ml of tetrahydrofuran, 8 ml of water and 20 ml of acetic acid at room temperature for 16 hours. After concentration by evaporation, ice/water is added to the residue and the mixture is then extracted with ethyl acetate. The title compound is obtained from the organic phase after FC (260 g of silica gel, ethyl acetate/hexane=1:1): Rf (ethyl acetate/hexane=1:1)=0.32.

reactant | 5(S)-tert-butoxycarbonylamino-4(S)-hydroxy-7(S)-isopropyl-2(R)-methyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid | 4.45 g | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)O)C)O)C[C@H](CC1=CC(=C(C=C1)OC)OCCCOC)C(C)C | C28H47NO8
reactant | tert-butyldimethylsilyl chloride | 2.36 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 2.03 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 5(S)-tert-butoxycarbonylamino-4(S)-tert-butyldimethylsilyloxy-7(S)-isopropyl-2(R)-methyl-8-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-octanoic acid | C(C)(C)(C)OC(=O)N[C@H]([C@H](C[C@H](C(=O)O)C)O[Si](C)(C)C(C)(C)C)C[C@H](CC1=CC(=C(C=C1)OC)OCCCOC)C(C)C | C34H61NO8Si
